US07790741B2
3-Fluoro-4-{6-[6-(4-fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-[1,2,4]triazolo[4,3-a]pyridin-3-yl}-N-(3-hydroxy-2,2-dimethylpropyl)-benzamide
A mixture of 3-(4-bromo-2-fluorophenyl)-6-[6-(4-fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-[1,2,4]triazolo[4,3-a]pyridine (0.20 g, 0.41 mmol; Example #K.1.3), 3-amino-2,2-dimethyl-propan-1-ol (0.21 g, 2.0 mmol; Lancaster), and TEA (0.175 mL, 1.21 mmol) in DMF (5 mL) was vacuum purged with carbon monoxide three times followed by the addition of dichlorobis(triphenylphosphine)palladium (II) (0.03 g, 0.04 mmol) and subsequent vacuum purging with carbon monoxide five times. The reaction was heated at about 100° C. under an atmosphere of carbon monoxide for about 2 h after which the reaction was cooled and concentrated under reduced pressure. The crude material was dissolved in DCM and purified by flash chromatography using DCM/MeOH (90:10) as eluent. After concentration of the clean fractions, the resulting oil was triturated with Et2O. The resulting solid was filtered and dried to provide the title compound as a light yellow solid (0.19 g, 85%): LC/MS (Table 1, Method a) Rt=2.11 min; MS m/z: 543.2 (M+H)+.

reactant | 3-(4-bromo-2-fluorophenyl)-6-[6-(4-fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-[1,2,4]triazolo[4,3-a]pyridine | 0.41 mmol, 0.20 g | BrC1=CC(=C(C=C1)C1=NN=C2N1C=C(C=C2)C2=C(N=C1OC=CN12)C1=CC=C(C=C1)F)F | C23H12BrF2N5O
reactant | 3-amino-2,2-dimethyl-propan-1-ol | 2.0 mmol, 0.21 g | NCC(CO)(C)C | C5H13NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.04 mmol, 0.03 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Fluoro-4-{6-[6-(4-fluorophenyl)-imidazo[2,1-b]oxazol-5-yl]-[1,2,4]triazolo[4,3-a]pyridin-3-yl}-N-(3-hydroxy-2,2-dimethylpropyl)-benzamide | 0.19 g, 85% | FC=1C=C(C(=O)NCC(CO)(C)C)C=CC1C1=NN=C2N1C=C(C=C2)C2=C(N=C1OC=CN12)C1=CC=C(C=C1)F | C29H24F2N6O3
